US07452992B2
To a solution of the above 4-{[tert-butyl(dimethyl)silyl]oxy}-2-phenylbutane-1,2-diol in 2 mL pyridine was added p-toluenesulfonyl chloride (573 mg, 3.00 mmol). After stirring the reaction mixture for 24 h, water was added and the solution was extracted with EtOAc. The organic layers were pooled and washed with brine, dried (Na2SO4), evaporated and redissolved in 5 mL CH3CN. To this solution was added ethanolamine (0.61 mL, 10.0 mmol) and the reaction mixture was heated at 100° C. for 24 h. After dilution with EtOAc, the mixture was washed with brine, dried (Na2SO4), evaporated and redissolved in 2 mL CH2Cl2. To this was added Et3N (0.40 mL, 2.9 mmol), and di-tert-butyl dicarbonate (570 mg, 2.6 mmol) and the reaction mixture was stirred for 24 h. Water was added and the solution as extracted with CH2Cl2 and purified by chromatography (3:1 hex:EtOAc) to afford tert-butyl 4-{[tert-butyl(dimethyl)silyl]oxy}2-hydroxy-2-phenylbutyl(2-hydroxyethyl)carbamate (773 mg, 88%) as a clear oil: 1H NMR (400 MHz, CDCl3), δ 7.48 (m, 1H), 7.40 (m, 1H), 7.37-7.31 (m, 2H), 7.25 (m, 1H), 3.99 (d, 1H, J=14;1 Hz), 3.88-3.59 (m, 4H), 3.50-3.41 (m, 2H), 3.27 (m, 1H), 3.14 (m, 1H), 2.34-2.13 (m, 2H), 2.06 (m, 1H), 1.45 (s, 9H), 0.83 (s, 9H), −0.05 (s, 3H), −0.13 (s, 3H).

reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}-2-phenylbutane-1,2-diol | [Si](C)(C)(C(C)(C)C)OCCC(CO)(O)C1=CC=CC=C1 | C16H28O3Si
reactant | p-toluenesulfonyl chloride | 3.00 mmol, 573 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethanolamine | 10.0 mmol, 0.61 mL | C(O)CN | C2H7NO
reactant | Et3N | 2.9 mmol, 0.40 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.6 mmol, 570 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | tert-butyl 4-{[tert-butyl(dimethyl)silyl]oxy}2-hydroxy-2-phenylbutyl(2-hydroxyethyl)carbamate | 773 mg, 88% | [Si](C)(C)(C(C)(C)C)OCCC(CN(C(OC(C)(C)C)=O)CCO)(C1=CC=CC=C1)O | C23H41NO5Si
